US07026324B2
2-(1-Trityl-1H-imidazol-4-yl)-benzonitrile (17.6 g, 42.7 mmol) was dissolved in dry tetrahydrofuran (320 ml) and stirred under nitrogen in an ice bath. To this solution was added lithium aluminum hydride (1.0 M in THF, 45 ml, 45 mmol) dropwise over 15 min. After the addition was complete the ice bath was removed and the reaction was stirred at room temperature. The reaction was closely monitored by HPLC and was typically complete within 45 min to 1.5 h. This close monitoring was essential because with longer reaction times, the amount of deprotected imidazole increased. Once complete, the reaction was diluted with tetrahydrofuran (200 ml) and quenched with water (1.7 ml), 15% sodium hydroxide solution (1.7 ml) and water (5.1 ml). This mixture was stirred at room temperature for 3 h. The solid was filtered over a layer of celite and rinsed with tetrahydrofuran (200 ml). Rotary evaporation of the filtrate afforded 2-(1-trityl-1H-imidazol-4-yl)-benzylamine as a thick amber oil.

reactant | 2-(1-Trityl-1H-imidazol-4-yl)-benzonitrile | 42.7 mmol, 17.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=C(C#N)C=CC=C1 | C29H21N3
reactant | lithium aluminum hydride | 45 mmol, 1.0 M, 45 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 320 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(1-trityl-1H-imidazol-4-yl)-benzylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=C(CN)C=CC=C1 | C29H25N3
